US09340509B2
The solution of 5-bromo-4-chloro-2,2-diflouro-1,3-benzodioxole (1.5 g, 5.53 mmol) in 10 mL conc. sulfuric acid was cooled to −10° C. Then a solution of 1 mL fuming nitric acid and 2 mL of conc. sulfuric acid was added drop wise. The resulting solution was stirred at −10° C. for ˜2 h. Then the reaction mixture was poured into ice water and a yellow solid precipitated out. Filtered off the solid, rinsed with water and collected the solid. The crude solid was purified by flash chromatography (SiO2, 0-5% ethyl acetate in hexanes) to afford pure 6-nitro-5-bromo-4-chloro-2,2-diflouro-1,3-benzodioxole (1.0 g, 3.16 mmol, 57%). MS: (ES) m/z calculated for C7HBrClF2NO4 [M+H]+ 316.0. found 316.

reactant | 5-bromo-4-chloro-2,2-diflouro-1,3-benzodioxole | 5.53 mmol, 1.5 g | BrC1=C(C2=C(OC(O2)(F)F)C=C1)Cl | C7H2BrClF2O2
reactant | nitric acid | 1 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
product | 6-nitro-5-bromo-4-chloro-2,2-diflouro-1,3-benzodioxole | 3.16 mmol, 1.0 g, 57% | [N+](=O)([O-])C=1C(=C(C2=C(OC(O2)(F)F)C1)Cl)Br | C7HBrClF2NO4
